US07531532B2
4-(4-Benzyloxycarbonylamino-3-fluorophenoxy)pyridine-2-carboxylic acid
After suspending ethyl 4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridine-2-carboxylate (7.51 g) in ethanol (100 ml) and water (20 ml), lithium hydroxide (657 mg) was added at room temperature. The reaction mixture was stirred for 1 hour at room temperature. The reaction mixture was stirred while cooling in an ice bath and then 1N hydrochloric acid (60 ml) was added thereto. After stirring for 5 minutes, the reaction mixture was concentrated. After concentration, the crystals precipitated in the reaction mixture were filtrated, and the crystals were washed with water. The crystals were then dissolved in ethyl acetate-tetrahydrofuran, the solution was dried over anhydrous sodium sulfate. The dried solution was concentrated under reduced pressure. The obtained precipitate was suspended in hexane and the precipitate was filtered. The solid was dried to provide the title compound (5.04 g, 72.0%) as a pale yellow solid.

reactant | ethyl 4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridine-2-carboxylate | 7.51 g | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(OC2=CC(=NC=C2)C(=O)OCC)C=C1)F | C22H19FN2O5
reactant | lithium hydroxide | 657 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1N, 60 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 4-(4-Benzyloxycarbonylamino-3-fluorophenoxy)pyridine-2-carboxylic acid | 5.04 g, 72.0% | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(OC2=CC(=NC=C2)C(=O)O)C=C1)F | C20H15FN2O5
